US05006159
2-(1-(Ethoxyimino)propyl)-3-hydroxy-5-(3-(2-fluoro-4-(methylsulfinyl)phenoxy)-phenyl) cyclohex-2-en-1-one
A solution of 0.45 g (1.0 mmol) of 2-propionyl-3-hydroxy-5-(3-(2-fluoro-4-(methylsulfinyl)phenoxy)-phenyl)cyclohex-2-en-1-one in 3 mL of methYlene chloride and 10 mL of absolute ethanol, at room temperature was treated with 0.14 g (1.5 mmol) of ethoxyamine hydrochloride and 0.12 g (1.5 mmol) of anhydrous sodium acetate. After stirring under a nitrogen atmosphere for 16 hours, the mixture was poured into 100 mL of water and extracted twice with 30 mL portions of methylene chloride. The combined extracts were dried over MgSO4, filtered and the solvent evaporated off leaving the product as a yellow oil. Purification via flash chromatography (silica gel, methylene chloride/acetone) gave the above named product as a yellow oil in a yield of 0.33 g (66 percent of theoretical). 1H NMR (CDCl3): δ1.10-1.50 (m, 6H, both --CH2CH3 's), 2.60-3.55 (m includes s at 2.75 for CH3SO--, 10H), 4.21 (q, J=7 Hz, 2H, --OCH2), 6.80-7.56 (m, 7H, aromatics), 14.5-15.0 (very broad s, enol H) (Compound 6).

reactant | 2-propionyl-3-hydroxy-5-(3-(2-fluoro-4-(methylsulfinyl)phenoxy)-phenyl)cyclohex-2-en-1-one | 1.0 mmol, 0.45 g | C(CC)(=O)C=1C(CC(CC1O)C1=CC(=CC=C1)OC1=C(C=C(C=C1)S(=O)C)F)=O | C22H21FO5S
reactant | ethoxyamine hydrochloride | 1.5 mmol, 0.14 g | Cl.C(C)ON
reactant | sodium acetate | 1.5 mmol, 0.12 g | C(C)(=O)[O-].[Na+]
reactant | water | 100 mL | O | H2O
solvent | methYlene chloride | 3 mL | C(Cl)Cl | CH2Cl2
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 2-(1-(Ethoxyimino)propyl)-3-hydroxy-5-(3-(2-fluoro-4-(methylsulfinyl)phenoxy)-phenyl) cyclohex-2-en-1-one | C(C)ON=C(CC)C=1C(CC(CC1O)C1=CC(=CC=C1)OC1=C(C=C(C=C1)S(=O)C)F)=O | C24H26FNO5S
